US07745641B2
In a similar manner to Step 1 of Example 10, 7-amino-4-bromoisoindolinone (300 mg, 1.32 mmol) was dissolved in THF (12 mL), and the solution was treated with vinyltributyltin (1.16 mL, 3.96 mmol) and bis(o-toluoylphosphine)dichloropalladium (166 mg, 0.211 mmol), followed by purification by slurry using hexane and chloroform to obtain 7-amino-4-vinylisoindolinone (155 mg, yield 68%).

reactant | 7-amino-4-bromoisoindolinone | 1.32 mmol, 300 mg | NC=1C=CC(=C2CNC(C12)=O)Br | C8H7BrN2O
reactant | vinyltributyltin | 3.96 mmol, 1.16 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 7-amino-4-vinylisoindolinone | 155 mg, yield 68% | NC=1C=CC(=C2CNC(C12)=O)C=C | C10H10N2O
